US08309577B2
To a stirring suspension of (S)-3-(ammoniomethyl)-3-hydroxy-1-azoniabicyclo[2.2.2]octane chloride (111 mg, 0.484 mmol) in DMF (3 mL) was added Hunig's Base (0.5 mL, 2.86 mmol) and the resulting mixture was stirred at room temperature for 35 minutes. Then was added a suspension of 6-chloro-3-isothiocyanato-7-methoxyisoquinoline (106 mg, 0.423 mmol) in DMF (3 mL) and the reaction mixture was allowed to stir at room temperature overnight. The solvent was evaporated in vacuo and the residue subjected to a silica gel column in 1% NH4OH/9% MeOH/90% CHCl3 to give 140.3 mg (82%) as a white solid, (S)-1-(6-chloro-7-methoxyisoquinolin-3-yl)-3-((3-hydroxyquinuclidin-3-yl)methyl)thiourea. LCMS RT 1.28 min, MH+=407.1, 409.0, 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 11.85 (1H, t, J=5.2 Hz), 9.15 (1H, br. s.), 8.63 (1H, s), 7.76 (1H, s), 6.92 (1H, s), 6.89 (1H, s), 4.14 (1H, dd, J=13.9, 5.6 Hz), 3.99 (2H, s), 3.90 (1H, dd, J=14.0, 5.2 Hz), 3.46 (3H, s), 2.89-3.01 (2H, m), 2.75-2.88 (3H, m), 2.03-2.15 (1H, m), 1.89-1.96 (1H, m), 1.77-1.88 (1H, m), 1.63 (1H, ddd, J=13.4, 6.1, 3.4 Hz), 1.32-1.45 (1H, m).

reactant | (S)-3-(ammoniomethyl)-3-hydroxy-1-azoniabicyclo[2.2.2]octane chloride | 0.484 mmol, 111 mg | [Cl-].[NH3+]C[C@@]1(C[NH+]2CCC1CC2)O.[Cl-]
reactant | Hunig's Base | 2.86 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloro-3-isothiocyanato-7-methoxyisoquinoline | 0.423 mmol, 106 mg | ClC=1C=C2C=C(N=CC2=CC1OC)N=C=S | C11H7ClN2OS
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-1-(6-chloro-7-methoxyisoquinolin-3-yl)-3-((3-hydroxyquinuclidin-3-yl)methyl)thiourea | ClC=1C=C2C=C(N=CC2=CC1OC)NC(=S)NC[C@@]1(CN2CCC1CC2)O | C19H23ClN4O2S
